US06255494B1
Preparation of 4-hydroxy-2-[(4-chlorophenoxy)methyl]benzimidazole
In a 50 ml single neck round bottom flask, under a nitrogen atmosphere, 4-chlorophenoxyacetonitrile (0.46 g, 2.79 mmol) was admixed in methanol (11 ml). The contents were stirred to achieve dissolution. To this solution were added sodium methoxide (0.164 g, 3.0 mmol). The resulting mixture was stirred for about 40 minutes. To this mixture was added 2,3-diaminophenol dihydrochloride salt (0.5 g, 2.5 mmol) and the resulting mixture was stirred for two hours at room temperature. The reaction mixture was filtered and the filtrate was added to 60 ml of water. A light brown precipitate formed and this precipitate is removed by filtration, and washed with 20 ml of water. The solid was dried in a vacuum oven overnight.

reactant | 4-chlorophenoxyacetonitrile | 2.79 mmol, 0.46 g | ClC1=CC=C(OCC#N)C=C1 | C8H6ClNO
reactant | sodium methoxide | 3.0 mmol, 0.164 g | C[O-].[Na+]
reactant | 2,3-diaminophenol dihydrochloride salt | 2.5 mmol, 0.5 g | Cl.Cl.NC1=C(C=CC=C1N)O
solvent | methanol | 11 ml | CO | CH4O
product | 4-hydroxy-2-[(4-chlorophenoxy)methyl]benzimidazole | OC1=CC=CC=2N=C(NC21)COC2=CC=C(C=C2)Cl | C14H11ClN2O2
